data/my_data/train.txt
[C:1](=[NH+:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[O:16]=[C:17]([O-:18])[c:19]1[cH:20][cH:21][c:22](-[c:23]2[cH:24][n:25]3[c:26]([I:27])[cH:28][n:29][c:30]3[cH:31][n:32]2)[cH:33][cH:34]1.C1COCCN1>>[C:1]([NH:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)(=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:18][C:17](=[O:16])[c:19]1[cH:20][cH:21][c:22](-[c:23]2[cH:24][n:25]3[c:26]([I:27])[cH:28][n:29][c:30]3[cH:31][n:32]2)[cH:33][cH:34]1.C1COCCN1
[CH3:1][OH:2].[BH3:3].[CH3:4][O:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH:11]([CH3:12])[O-:13])[cH:14][c:15]1[O:16][CH3:17]>>[CH3:1][O-:2].[BH3:3].[CH3:4][O:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH:11]([CH3:12])[OH:13])[cH:14][c:15]1[O:16][CH3:17]
[cH:1]1[n:2][cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([NH:9][c:10]3[n:11][c:12]4[c:13]([c:14]([NH:15][CH2:16][CH:17]5[CH2:18][CH2:19][O:20][CH2:21][CH2:22]5)[n:23]3)[CH2:24][NH+:25]([CH2:26][O-:27])[CH2:28][CH2:29]4)[cH:30][cH:31]2)[o:32]1.[BH3-]C#N.[Na+].[OH3+]>>[cH:1]1[n:2][cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([NH:9][c:10]3[n:11][c:12]4[c:13]([c:14]([NH:15][CH2:16][CH:17]5[CH2:18][CH2:19][O:20][CH2:21][CH2:22]5)[n:23]3)[CH2:24][N:25]([CH2:26][OH:27])[CH2:28][CH2:29]4)[cH:30][cH:31]2)[o:32]1.[BH3-]C#N.[Na+].[OH3+]
[CH3:1][CH2:2][O:3][CH:4]([CH2:5][NH2:6])[O:7][CH2:8][CH3:9].[CH3:10][CH2:11][O:12][c:13]1[cH:14][cH:15][cH:16][c:17]([CH:18]=[O:19])[c:20]1[OH:21].[BH3-]C#N.[Na+].[OH3+]>>[CH3:1][CH2:2][O:3][CH:4]([CH2:5][NH2+:6][CH:18]([c:17]1[cH:16][cH:15][cH:14][c:13]([O:12][CH2:11][CH3:10])[c:20]1[OH:21])[O-:19])[O:7][CH2:8][CH3:9].[BH3-]C#N.[Na+].[OH3+]
[CH3:13][c:14]1[cH:15][cH:16][c:17]([NH:18][C:19](=[O:20])[O:21][C:22]([CH3:23])([CH3:24])[CH3:25])[cH:26][c:27]1[NH2:28].[Cl:101][c:1]1[n:2][c:3]([S:4][C:5]#[N:6])[c:7]([N+:8](=[O:9])[OH:10])[cH:11][n:12]1>>[C:1]1([NH2+:28][C:27]2=[C:14]([CH3:13])[CH:15]=[CH:16][C:17]([NH:18][C:19](=[O:20])[O:21][C:22]([CH3:23])([CH3:24])[CH3:25])=[CH:26]2)([Cl:101])[N:2]=[C:3]([S:4][C:5]#[N:6])[C:7](=[N+:8]([O-:9])[OH:10])[CH:11]=[N:12]1
[C:1](=[NH+:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][C:17]1([CH3:18])[C:19](=[O:20])[NH:21][c:22]2[cH:23][c:24]3[nH:25][c:26](-[c:27]4[n:28][nH:29][c:30]5[cH:31][cH:32][c:33]([C:34](=[O:35])[O-:36])[cH:37][c:38]45)[n:39][c:40]3[cH:41][c:42]21.CCN>>[C:1]([NH:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)(=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:36][C:34]([c:33]1[cH:32][cH:31][c:30]2[nH:29][n:28][c:27](-[c:26]3[nH:25][c:24]4[cH:23][c:22]5[c:42]([cH:41][c:40]4[n:39]3)[C:17]([CH3:16])([CH3:18])[C:19](=[O:20])[NH:21]5)[c:38]2[cH:37]1)=[O:35].CCN
[I:1][Pd:2]12([c:3]3[cH:4][cH:5][c:6]([CH2:7][CH:8]([NH:9][C:10]([CH3:11])=[O:12])[C:13]([O:14][CH3:15])=[O:16])[cH:17][cH:18]3)[N:19]([c:20]3[c:21]([F:22])[c:23]([F:24])[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([F:31])[c:32]3[F:33])[C:34](=[O:35])[C:36]([CH3:37])([CH3:38])[N+:39]13[CH2:40][CH:41]1[CH:42]2[CH:43]1[CH2:44]3.CC(=O)O.CC(=O)O.CC(=O)[O-].[Ag+]>>[I:1][Pd:2]1[N:19]([c:20]2[c:21]([F:22])[c:23]([F:24])[c:25]([C:26]([F:27])([F:28])[F:29])[c:30]([F:31])[c:32]2[F:33])[C:34](=[O:35])[C:36]([CH3:37])([CH3:38])[N+:39]12[CH2:40][CH:41]1[CH:42]([c:3]3[cH:4][cH:5][c:6]([CH2:7][CH:8]([NH:9][C:10]([CH3:11])=[O:12])[C:13]([O:14][CH3:15])=[O:16])[cH:17][cH:18]3)[CH:43]1[CH2:44]2.CC(=O)O.CC(=O)O.CC(=O)[O-].[Ag+]
[C:1]1([NH2+:13][CH2:12][C:11]#[CH:10])([F:101])[CH:2]=[CH:3][C:4](=[N+:5]([O-:6])[OH:7])[CH:8]=[CH:9]1>>[C:1]1([NH2+:13][CH2:12][C:11]#[CH:10])=[CH:9][CH:8]=[C:4]([N+:5](=[O:6])[OH:7])[CH:3]=[CH:2]1.[F-:101]
[CH3:1][CH2:2][n:3]1[c:4]([CH2:5][CH2:6][CH2:7][c:8]2[cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([NH2:16])[cH:22][n:23]3)[cH:24][cH:25]2)[n:26][n:27]([CH2:28][c:29]2[cH:30][cH:31][c:32]([C:33]([CH3:34])([CH3:35])[CH3:36])[cH:37][cH:38]2)[c:39]1=[O:40].[CH3:18][S:17](=[O:19])(=[O:20])[Cl:21]>>[CH3:1][CH2:2][n:3]1[c:4]([CH2:5][CH2:6][CH2:7][c:8]2[cH:9][cH:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([NH2+:16][S:17]([CH3:18])(=[O:19])([O-:20])[Cl:21])[cH:22][n:23]3)[cH:24][cH:25]2)[n:26][n:27]([CH2:28][c:29]2[cH:30][cH:31][c:32]([C:33]([CH3:34])([CH3:35])[CH3:36])[cH:37][cH:38]2)[c:39]1=[O:40]
[CH3:1][S+:2]([O:3][C:4]([C:5]([Cl:6])=[O:7])([O-:8])[Cl:9])[CH3:10].CCN(CC)CC.CCS(=O)(=O)N1CCC(c2n[nH]c3c(C(N)=O)cc(-c4cccc(CO)c4)cc23)CC1>>[CH3:1][S+:2]([O:3][C:4]([C:5]([Cl:6])=[O:7])=[O:8])[CH3:10].[Cl-:9].CCN(CC)CC.CCS(=O)(=O)N1CCC(c2n[nH]c3c(C(N)=O)cc(-c4cccc(CO)c4)cc23)CC1
[CH3:1][C:2](=[O:3])[O-:4].[CH3:5][C:6](=[O:7])[NH+:8]1[CH2:9][CH:10]([c:11]2[cH:12][cH:13][c:14]3[c:15]([cH:16]2)-[n:17]2[n:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH:25]([CH3:26])[CH3:27])[cH:28][c:29]2[CH2:30][CH2:31][O:32]3)[CH2:33]1>>[CH3:1][C:2](=[O:3])[OH:4].[CH3:5][C:6](=[O:7])[N:8]1[CH2:9][CH:10]([c:11]2[cH:12][cH:13][c:14]3[c:15]([cH:16]2)-[n:17]2[n:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH:25]([CH3:26])[CH3:27])[cH:28][c:29]2[CH2:30][CH2:31][O:32]3)[CH2:33]1
